US08809382B2
Step 3: 5-(6-Chloro-2-hexyl-indol-1-yl)-3(R)-methyl-5-oxo-pentanoic acid methyl ester
To the cold solution of 6-Chloro-2-hexyl-1H-indole in methylene chloride was added solution of potassium tert-butoxide in THF and stirred for 30 minutes. Then (S)-methyl 5-chloro-3-methyl-5-oxopentanoate in methylene chloride was added to the reaction mixture and was stirred for 3 hours. The reaction mixture was then treated with saturated ammonium chloride and ethyl acetate. The product was purified by column chromatography.

reactant | 6-Chloro-2-hexyl-1H-indole | ClC1=CC=C2C=C(NC2=C1)CCCCCC | C14H18ClN
reactant | potassium tert-butoxide | CC(C)([O-])C.[K+]
reactant | (S)-methyl 5-chloro-3-methyl-5-oxopentanoate | ClC(C[C@H](CC(=O)OC)C)=O | C7H11ClO3
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | THF | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-(6-Chloro-2-hexyl-indol-1-yl)-3(R)-methyl-5-oxo-pentanoic acid methyl ester | COC(C[C@@H](CC(=O)N1C(=CC2=CC=C(C=C12)Cl)CCCCCC)C)=O | C21H28ClNO3
